US04268507
Diethyl 4(p-chlorophenyl)butylphosphonate (Compound No. 12)
A mixture of 12.38 g of 4(p-chlorophenyl)butyl bromide and 20 g of triethyl phosphite was refluxed at 160° for seven hours. During this period the circulating water in the condenser was maintained at 50° to allow the ethyl bromide to distill off. After removal of the excess of triethyl phosphite, distillation under reduced pressure gave 11.9 g (39 mmol) of a white viscuous oil.

reactant | 4(p-chlorophenyl)butyl bromide | 12.38 g | ClC1=CC=C(C=C1)CCCCBr | C10H12BrCl
reactant | triethyl phosphite | 20 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | ethyl bromide | C(C)Br | C2H5Br
solvent | water | O | H2O
product | Diethyl 4(p-chlorophenyl)butylphosphonate | 39 mmol, 11.9 g, yield: 78% | ClC1=CC=C(C=C1)CCCCP(OCC)(OCC)=O | C14H22ClO3P
